US05030646
Stage D: 3-[(2-Methyl-1-Imidazolyl)Methyl]-4-Oxo-2,3,4,9-Tetrahydrothiopyrano[2,3-b]Indole
5.60 ml (0.09 mol) of iodomethane are added to a solution of 23.43 g (0.09 mol) of 3-[(dimethylamino)methyl]-4-oxo-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (hydrochloride) in 250 ml of dimethylformamide. The mixture is stirred at room temperature for 1 hour, a solution of 22.17 g (0.27 mol) of 2-methylimidazole in 50 ml of dimethylformamide is then added and the reaction medium is thereafter heated to 100° C. for 36 hours. After the mixture is cooled, 500 ml of 2N aqueous sodium carbonate solution are added and the resulting mixture is extracted three times with ethyl acetate. The organic phases are combined, washed with water (200 ml), dried and concentrated under vacuum. The product is chromatographed on silica, eluting with a methylene chloride/ethanol/ammonia solution mixture (92:8:0.5). The residue is recrystallized in acetonitrile.

reactant | iodomethane | 0.09 mol, 5.60 ml | IC | CH3I
reactant | 3-[(dimethylamino)methyl]-4-oxo-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 0.09 mol, 23.43 g | CN(C)CC1C(C2=C(NC3=CC=CC=C23)SC1)=O | C14H16N2OS
reactant | 2-methylimidazole | 0.27 mol, 22.17 g | CC=1NC=CN1 | C4H6N2
reactant | sodium carbonate | 2N, 500 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-[(2-Methyl-1-Imidazolyl)Methyl]-4-Oxo-2,3,4,9-Tetrahydrothiopyrano[2,3-b]Indole | CC=1N(C=CN1)CC1C(C2=C(NC3=CC=CC=C23)SC1)=O | C16H15N3OS
